US09382258B2
Part D. Preparation of (8S,9aS)-8-hydroxy-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one
To (8S,9aS)-5-oxo-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-1H-pyrrolo[1,2-a][1,4]diazepin-8-yl 4-nitrobenzoate (135 mg, 0.291 mmol, Part C) in methanol (2.5 mL) was added potassium carbonate (24 mg, 0.174 mmol). The mixture was stirred at room temperature for 1.5 hours and then concentrated. The residue was purified by chromatography on silica gel (ethyl acetate, then ethyl acetate/methanol=10:1) to give 78 mg (85% yield) of the titled compound as a solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.72 (m, 1H), 2.28 (m, 1 H), 2.45 (m, 1H), 2.63 (m, 1 H), 3.35 (m, 3 H), 3.44 (m, 1 H), 3.92 (m, 1H), 4.17 (m, 1H), 4.42 (m, 2H), 5.09 (br s, 1H), 7.00 (d, J=8 Hz, 1 H), 7.80 (d, J=8 Hz, 1 H), 8.43 (s, 1 H); MS (ESI) m/z 316.0 (M+H)+.

reactant | (8S,9aS)-5-oxo-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-1H-pyrrolo[1,2-a][1,4]diazepin-8-yl 4-nitrobenzoate | 0.291 mmol, 135 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2C[C@@H]3N(C(CCN(C3)C3=NC=C(C=C3)C(F)(F)F)=O)C2)C=C1 | C21H19F3N4O5
reactant | potassium carbonate | 0.174 mmol, 24 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | methanol | 2.5 mL | CO | CH4O
product | (8S,9aS)-8-hydroxy-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one | 78 mg, 85% yield | O[C@H]1C[C@@H]2N(C(CCN(C2)C2=NC=C(C=C2)C(F)(F)F)=O)C1 | C14H16F3N3O2
